US07576215B2
A stirred mixture of 3-benzyl-4-bromo-8-(trifluoromethyl)quinoline (10.0 g, 27.31 mmol) and (3-methoxyphenyl)acetonitrile (5.57 mL, 40.96 mmol) in THF (100 mL) is treated with NaH (1.64 g, 41.0 mmol, 60% dispersion in oil). After 0.5 h at ambient temperature, the reaction is heated at 50° C. for 2 h. The cooled reaction is diluted with water, extracted with ethyl acetate, and the combined extracts are dried (MgSO4) and concentrated. The residue is purified via column chromatography using 10:90 ethyl acetate:hexane as the eluent. The purified product is dissolved in a mixture of methylene chloride and hexane and concentrated until precipitation commences. After precipitation is complete, [3-benzyl-8-(trifluoromethyl)quinolin-4-yl](3-methoxyphenyl)acetonitrile is isolated as an off-white crystalline solid (5.18 g, 44%). HRMS: calcd for C26H19F3N2O+H+, 433.15222; found (ESI, [M+H]+), 433.1528.

reactant | 3-benzyl-4-bromo-8-(trifluoromethyl)quinoline | 27.31 mmol, 10.0 g | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1Br)C(F)(F)F | C17H11BrF3N
reactant | (3-methoxyphenyl)acetonitrile | 40.96 mmol, 5.57 mL | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | NaH | 41.0 mmol, 1.64 g | [H-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | [3-benzyl-8-(trifluoromethyl)quinolin-4-yl](3-methoxyphenyl)acetonitrile | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C(C#N)C1=CC(=CC=C1)OC)C(F)(F)F | C26H19F3N2O
